US04898874
3-(4-Chlorophenyl)-7-(bromomethyl)-2,1-benzisoxazole
A mixture of 15.7 g (0.065 mole) of 3-(4-chlorophenyl)-7-methyl-2,1-benzisoxazole, 11.6 g (0.065 mole) of N-bromosuccinimide, 0.5 g of dibenzoylperoxide and 400 ml of carbon tetrachloride was heated at reflux while being illuminated by a flood lamp for 3 hr. The mixture was filtered and the filtrate was concentrated to give a solid as residue. The solid was recrystallized three times from acetonitrile to yield 12.0 g (58%) of crystals, m.p. 153°-155° C.

reactant | 3-(4-chlorophenyl)-7-methyl-2,1-benzisoxazole | 0.065 mole, 15.7 g | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2C | C14H10ClNO
reactant | N-bromosuccinimide | 0.065 mole, 11.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | dibenzoylperoxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(4-Chlorophenyl)-7-(bromomethyl)-2,1-benzisoxazole | 12.0 g, 58% | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2CBr | C14H9BrClNO
